US08912181B2
Pd(PPh3)4 (0.0581 g) was added to a solution of the obtained 8-bromo-4-chloroquinoline (0.242 g), 3-quinolineboronic acid (0.163 g), and an aqueous sodium carbonate solution (2 M, 1.5 mL) in ethylene glycol dimethyl ether (3.0 mL) in a nitrogen atmosphere, and the mixture was stirred at 85° C. for 3 hours. The reaction solution was partitioned between ethyl acetate and water. The organic layer was washed with brine and then dried over anhydrous sodium sulfate. The solvent was distilled off, and the residue was purified by neutral silica gel column chromatography (chloroform/methanol) to obtain 4′-chloro-3,8′-biquinoline (0.114 g) as a white solid. Compound (117) was obtained as a pale yellow solid (yield based on 6 steps: 37%) according to Example 3(3) using the obtained 4′-chloro-3,8′-biquinoline instead of compound (3b) and 4-cyano-3-(4-hydroxycyclohexylamino)phenylboronic acid pinacol ester instead of 4-cyano-3-(ethylamino)phenylboronic acid pinacol ester.

reactant | 8-bromo-4-chloroquinoline | 0.242 g | BrC=1C=CC=C2C(=CC=NC12)Cl | C9H5BrClN
reactant | 3-quinolineboronic acid | 0.163 g | N1=CC(=CC2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | sodium carbonate | 2 M, 1.5 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethylene glycol dimethyl ether | 3.0 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.0581 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4′-chloro-3,8′-biquinoline | 0.114 g | ClC1=CC=NC2=C(C=CC=C12)C=1C=NC2=CC=CC=C2C1 | C18H11ClN2
